US07371765B2
A solution of diethyl azodicarboxylate (1.15 ml, 7.3 mmol) in methylene chloride (2 ml) was added in portions to a suspension of 4-chloro-6-cyano-7-hydroxyquinoline (1 g, 4.9 mmol), (prepared as described for the starting material in Example 1), 2-(1,2,3-triazol-1-yl)-ethan-1-ol (663 mg, 5.9 mmol), (J. Antib. 1993, 46, 177), and triphenylphosphine (1.92 g, 7.3 mmol) in methylene chloride (150 ml). After stirring for 10 minutes at ambient temperature, triphenylphosphine (256 mg, 0.98 mmol) was added followed by diethyl azodicarboxylate (154 μl, 0.98 mmol). The reaction mixture was stirred for 30 minutes and the volatiles were removed under vacuum and the residue was purified by column chromatography eluting with methylene chloride/ethyl acetate/methanol (45/50/5). The fractions containing the expected product were combined and evaporated under vacuum. The residue was triturated with ether, collected by filtration, washed with ether and dried under vacuum to give 4-chloro-6-cyano-7-(2-(1,2,3-triazol-1-yl)ethoxy)quinoline (470 mg, 32%).

reactant | diethyl azodicarboxylate | 7.3 mmol, 1.15 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-chloro-6-cyano-7-hydroxyquinoline | 4.9 mmol, 1 g | ClC1=CC=NC2=CC(=C(C=C12)C#N)O | C10H5ClN2O
reactant | 2-(1,2,3-triazol-1-yl)-ethan-1-ol | 5.9 mmol, 663 mg | N1(N=NC=C1)CCO | C4H7N3O
reactant | triphenylphosphine | 7.3 mmol, 1.92 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 0.98 mmol, 256 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.98 mmol, 154 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-6-cyano-7-(2-(1,2,3-triazol-1-yl)ethoxy)quinoline | 470 mg, 32% | ClC1=CC=NC2=CC(=C(C=C12)C#N)OCCN1N=NC=C1 | C14H10ClN5O
